US06008230
To a solution of 4-chloro-8-(2,6-dichlorobenzoylamino)-6-methylquinoline (562 mg) in N-methylpyrrolidone (6 ml) was added hydrazine hydrate, and the mixture was heated at 90° C. for 6 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated. The residue was dissolved in methylene chloride and acetone and then concentrated. The residual solid was treated with hot ethanol (5 ml), allowed to cool to ambient temperature, filtered and washed with ethanol to give 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylidenehydrazino)quinoline (560 mg) as an off-white crystal.

reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-6-methylquinoline | 562 mg | ClC1=CC=NC2=C(C=C(C=C12)C)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H11Cl3N2O
reactant | hydrazine hydrate | O.NN
reactant | N-methylpyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylidenehydrazino)quinoline | 560 mg | ClC1=C(C(=O)NC=2C=C(C=C3C(=CC=NC23)NN=C(C)C)C)C(=CC=C1)Cl | C20H18Cl2N4O
